US07595311B2
PREPARATION OF ISOPROPYL 3-(3,4-DIFLUOROBENZOYL)-1,1-DIMETHYL-1,2,3,6-TETRAHYDROAZEPINO[4,5-B]INDOLE-5-CARBOXYLATE
Ethyl 3-(3,4-difluorobenzoyl)-1,1-dimethyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole-5-carboxylate was saponified, converted to the corresponding isopropyl ester using CDl and isopropanol, and then oxidized as described previously in Step D of Example 63 to give the title compound; 1H-NMR (DMSO-d6): δ 10.83 (1H, s), 7.76 (1H, d), 7.71 (1H, app t), 7.64 (1H, s), 7.52-7.61 (2H, m), 7.40 (1H, m), 7.08 (1H, app t), 6.98 (1H, app t), 5.05 (1H, sept), 1.52 (6H, s), 1.18 (6H, d); MS(ESI): 439 (MH+).

reactant | Ethyl 3-(3,4-difluorobenzoyl)-1,1-dimethyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole-5-carboxylate | FC=1C=C(C(=O)N2CC(C=3NC=4C=CC=CC4C3C(C2)(C)C)C(=O)OCC)C=CC1F | C24H24F2N2O3
reactant | isopropanol | C(C)(C)O | C3H8O
product | ISOPROPYL 3-(3,4-DIFLUOROBENZOYL)-1,1-DIMETHYL-1,2,3,6-TETRAHYDROAZEPINO[4,5-B]INDOLE-5-CARBOXYLATE | FC=1C=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3C(C2)(C)C)C(=O)OC(C)C)C=CC1F | C25H24F2N2O3
